US04211791
4-Hydroxy-7-(2-hydroxy-3-phenoxypropoxy) coumarin
A solution of 3,4-dihydro-7-(2-hydroxy-3-phenoxy-propoxy)-4-iminocoumarin (6.5 g; 0.02 mole) in 50% w/v sulphuric acid (80 g) was stirred at 100° for 3-6 hours. The initial pale red solution precipitated a yellow solid which after cooling and dilution with water was separated by decantation. After several decantations with water the oily solid was taken up in hot ethanol, charcoaled, filtered and the filtrate gradually diluted with water. The precipitated oily solid crystallised overnight to give 2.934 of buff solid of m.p. 145°-175°. Recrystallisation from aqueous methanol gave 2.275 g (34%) of material of m.p. 181°-183°, νmax (mull) 3250, 3060, 1705, 1610 cm-1 ; τ(DMSO); 5.85 (5H, m); 4.75 (1H broad exchangeable); 4.50 (1H, sharp exchangeable singlet); 3.19-2.50 (7H, complex m); 2.22 (1H, d, J 9.0 Hz); 1 low field exchangeable singlet. (Found; C, 65.48; H, 5.19; C18H16O6 requires; C, 65.85; H, 4.91%)

reactant | 3,4-dihydro-7-(2-hydroxy-3-phenoxy-propoxy)-4-iminocoumarin | 0.02 mole, 6.5 g | OC(COC1=CC=C2C(CC(OC2=C1)=O)=N)COC1=CC=CC=C1 | C18H17NO5
reactant | sulphuric acid | 80 g | S(O)(O)(=O)=O | H2O4S
product | 4-Hydroxy-7-(2-hydroxy-3-phenoxypropoxy) coumarin | 2.275 g, 34% | OC1=CC(OC2=CC(=CC=C12)OCC(COC1=CC=CC=C1)O)=O | C18H16O6
